US07456164B2
N-methyl-N-({4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-Pyran-4-yl}methyl)cyclopropanamine
A mixture of methyl-{4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]-tetrahydropyran-4-ylmethyl}amine (115 mg, 0.35 mmol), (1-Ethoxy-cyclopropoxy)-trimethylsilane (360 mg, 2.0 mmol), AcOH (0.2 ml, 3.5 mmol), NaCNBH3 (110 mg, 1.75 mmol) and 4 Å molecular sieves (100 mg) in MeOH (5 ml) was heated to reflux for 18 hours. The mixture was cooled, concentrated in vacuo and partitioned between 2M NaOH (10 ml) and DCM (10 ml). The organic phase was separated and the aqueous phase extracted with DCM (2×10 ml). The combined organic phases were concentrated in vacuo and purified by flash chromatography on silica gel eluting with dichloromethane:methanol:ammonia (92:8:1) to provide the title compound as a clear colourless oil (20 mg, 0.054 mmol, 15%). 1H NMR (400 MHz, CDCl3) δ 0.15 (m, 2H), 0.29 (m, 2H), 1.68 (m, 1H), 1.70-1.90 (m, 6H), 1.85 (s, 3H), 2.00-2.10 (m, 4H), 2.60 (m, 4H), 2.65 (s, 2H), 2.68 (m, 2H), 3.50 (t, 2H), 3.76 (m, 2H), 4.01 (t, 2H), 6.85 (d, 2H), 7.16 (d, 2H). HRMS ESI+ m/z 373.2844 [MH]+.

reactant | methyl-{4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]-tetrahydropyran-4-ylmethyl}amine | 0.35 mmol, 115 mg | CNCC1(CCOCC1)C1=CC=C(C=C1)OCCCN1CCCC1 | C20H32N2O2
reactant | (1-Ethoxy-cyclopropoxy)-trimethylsilane | 2.0 mmol, 360 mg | C(C)OC1(CC1)O[Si](C)(C)C | C8H18O2Si
reactant | AcOH | 3.5 mmol, 0.2 ml | CC(=O)O | C2H4O2
reactant | NaCNBH3 | 1.75 mmol, 110 mg | [BH3-]C#N.[Na+]
solvent | MeOH | 5 ml | CO | CH4O
product | N-methyl-N-({4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-Pyran-4-yl}methyl)cyclopropanamine | 0.054 mmol, 20 mg, 15% | CN(C1CC1)CC1(CCOCC1)C1=CC=C(C=C1)OCCCN1CCCC1 | C23H36N2O2
